US05824691
2M (Trimethylsilyl)diazomethane in hexane solution (0.84 ml) was added to a mixture of 2-[3-[2-((E)-2-carboxyethenyl)pyrrol-1-yl]benzoyl]guanidine (0.25 g) in tetrahydrofuran (5 ml) and methanol (5 ml) and the mixture was stirred for 25 minutes at the ambient temperature. To the reaction mixture was added acetic acid (2 ml) and stirred for 5 minutes. The mixture of ethyl acetate and water was added to the above mixture and adjusted to pH 8 with 20% aqueous potassium carbonate solution. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of ethanol and diisopropyl ether to give 2-[3-[2-((E)-2-methoxycarbonylethenyl)pyrrol-1-yl]benzoyl]guanidine (0.15 g).

reactant | (Trimethylsilyl)diazomethane | 2M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 2-[3-[2-((E)-2-carboxyethenyl)pyrrol-1-yl]benzoyl]guanidine | 0.25 g | C(=O)(O)/C=C/C=1N(C=CC1)C=1C=C(C(=O)N=C(N)N)C=CC1 | C15H14N4O3
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hexane | 0.84 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-[2-((E)-2-methoxycarbonylethenyl)pyrrol-1-yl]benzoyl]guanidine | 0.15 g | COC(=O)/C=C/C=1N(C=CC1)C=1C=C(C(=O)N=C(N)N)C=CC1 | C16H16N4O3
